US08138173B2
Ethyl (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetate (0.500 g, 1.44 mmol) was dissolved in 15 mL of tetrahydrofuran and cooled to 0° C. Lithium aluminum hydride (55 mg, 1.44) was added. The mixture was allowed to stir overnight, slowly warming to ambient temperature. An additional 55 mg of lithium aluminum hydride was added, and the mixture was stirred for 24 hours at ambient temperature. 0.15 mL of water, followed by 0.15 mL of 2 N aqueous sodium hydroxide and 0.45 mL of water was added. After stirring at ambient temperature for 1 hour, the mixture was dried over magnesium sulfate, filtered through a layer of CELITE filter aid, and concentrated under reduced pressure. The residue was purified by automated flash chromatography eluting with a gradient of 0-50% CMA in chloroform. The residue was triturated with methanol, isolated by filtration and dried to provide 0.211 g of 1-(2-hydroxyethyl)-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a white solid, mp 310-312° C. MS (ESI) m/z 306 (M+H)+; Anal. calcd for C18H15N3O2: C, 70.81; H, 4.95; N, 13.76. Found: C, 70.52; H, 4.83; N, 13.66.

reactant | Ethyl (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetate | 1.44 mmol, 0.500 g | O=C1NC=2C=CC=CC2C=2C1=NN(C2CC(=O)OCC)C2=CC=CC=C2 | C20H17N3O3
reactant | Lithium aluminum hydride | 55 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 55 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.15 mL | O | H2O
reactant | sodium hydroxide | 2 N, 0.15 mL | [OH-].[Na+]
reactant | water | 0.45 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 0.211 g | OCCC=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C18H15N3O2
